US06326503B1
Preparation of 1α,3β-dihydroxy-20(S)-{3-ethyl-2(S)-hydroxypentylthio}pregna-5,7,16-triene
By the same procedure as in Example 9, 1α,3β-bis(tert-butyldimethylsilyloxy)-20(S)-{3-ethyl-2(S)-hydroxypentylthio}pregna-5,7,16-triene (55.3 mg, 0.0802 mmol), tetrahydrofuran (3 ml) and 1M tetra-n-butylammonium fluoride solution in tetrahydrofuran (2 ml) were reacted (heating under reflux for 5 hours) and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethanol=9:1, developed once) to give the title compound as a white solid (35.5 mg, 96%).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-20(S)-{3-ethyl-2(S)-hydroxypentylthio}pregna-5,7,16-triene | 0.0802 mmol, 55.3 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC[C@H](C(CC)CC)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C40H72O3SSi2
reactant | tetra-n-butylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1α,3β-dihydroxy-20(S)-{3-ethyl-2(S)-hydroxypentylthio}pregna-5,7,16-triene | 35.5 mg, 96% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC[C@H](C(CC)CC)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C28H44O3S
